US09107916B2
A. 2-(5-Hydroxy-3,4-dimethyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile
A mixture of 2-hydrazinylpyridine-4-carbonitrile (134 mg, 1 mmol, PREPARATION 2) and 2-methyl-3-oxo-butyric acid ethyl ester (158 mg, 1.1 mmol) in EtOH (5 mL) and AcOH (1 mL) was stirred at 90° C. overnight. The reaction mixture was cooled, concentrated, and purified by flash column chromatography (CH2Cl2) to afford the title compound (100 mg, 47%) as an orange solid. [M+H] Calc'd for C11H10N4O, 215. Found, 215.

reactant | 2-hydrazinylpyridine-4-carbonitrile | 1 mmol, 134 mg | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | 2-methyl-3-oxo-butyric acid ethyl ester | 1.1 mmol, 158 mg | C(C)OC(C(C(C)=O)C)=O | C7H12O3
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 2-(5-Hydroxy-3,4-dimethyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile | 100 mg, 47% | OC1=C(C(=NN1C1=NC=CC(=C1)C#N)C)C | C11H10N4O
